US08058276B2
Step 17.2: Hexanoic acid 4-methoxy-pyrimidin-2-ylmethyl ester
The crude (4-methoxy-pyrimidin-2-yl)-methanol is dissolved in 30 ml CH2Cl2 and 10 ml pyridine. Then 8.7 g (40.6 mMol) caproic anhydride and 20 mg DMAP are added and the solution is stirred for 4 h at rt. After addition of 5 ml of isopropanol stirring is continued for 15 min. The reaction mixture is diluted with water and EtOAc, the aq. phase separated off and extracted twice with EtOAc. The organic layers are washed twice with water and brine, dried (Na2SO4) and concentrated. Column chromatography (SiO2; hexane/EtOAc 3:1→2:1) gives the title compound: MS: [M+1]+=239; TLC(hexane/EtOAc 2:1): Rf=0.38.

reactant | (4-methoxy-pyrimidin-2-yl)-methanol | COC1=NC(=NC=C1)CO | C6H8N2O2
reactant | caproic anhydride | 40.6 mMol, 8.7 g | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
reactant | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Hexanoic acid 4-methoxy-pyrimidin-2-ylmethyl ester | COC1=NC(=NC=C1)COC(CCCCC)=O | C12H18N2O3
